US07846929B2
A solution of 2-chloro-4-morpholinofuro[3,2-d]pyrimidine-6-carboxylic acid (1.0 eq), HATU (1.5 eq), hydrochloride salt of 1-methanesulfonylpiperazine (1.5 eq), diisopropylethylamine (3.0 eq) in DMF was stirred for 30 minutes. The solid that precipitated out from the reaction was filtered to give 2-chloro-4-morpholinofuro[3,2-d]pyrimidin-6-yl(4-methylsulfonylpiperazin-1-yl)methanone. MS (Q1) 430 (M)+

reactant | 2-chloro-4-morpholinofuro[3,2-d]pyrimidine-6-carboxylic acid | 1.0 eq | ClC=1N=C(C2=C(N1)C=C(O2)C(=O)O)N2CCOCC2 | C11H10ClN3O4
reactant | HATU | 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-methanesulfonylpiperazine | 1.5 eq | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
reactant | diisopropylethylamine | 3.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-chloro-4-morpholinofuro[3,2-d]pyrimidin-6-yl(4-methylsulfonylpiperazin-1-yl)methanone | ClC=1N=C(C2=C(N1)C=C(O2)C(=O)N2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C16H20ClN5O5S
